US07321050B2
Experiment 22. 1-(3,5-Dimethoxy-4-i-propylphenyl)-2-(3-fluorophenyl)ethene (28B).
This material was prepared from diethyl(3,5-dimethoxy-4-i-propylbenzyl)phosphonate and 3-fluorobenzaldehyde in the same way as described in example 21.

reactant | diethyl(3,5-dimethoxy-4-i-propylbenzyl)phosphonate | C(C)OP(OCC)(=O)CC1=CC(=C(C(=C1)OC)C(C)C)OC | C16H27O5P
reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
product | 1-(3,5-Dimethoxy-4-i-propylphenyl)-2-(3-fluorophenyl)ethene | COC=1C=C(C=C(C1C(C)C)OC)C=CC1=CC(=CC=C1)F | C19H21FO2
